US07638534B2
c) N((1-(2-(4-hydroxyphenyl)ethyl)-4-piperidinyl)methyl)-1-isopropyl-1H-indazole-3-carboxamide hydrochloride
A solution of the product obtained in step 1b) (10.0 g, 0.043 moles) and triethyl-amine (30 ml, 0.21 moles) in DMF (100 ml) was added dropwise to a solution of 1-(1-methylethyl)-1H-indazole-3-carboxylic acid chloride (9.5 g, 0.043 moles), prepared as described in EP-A-0 975 623, in DMF (50 ml). After having been stirred continuously at room temperature for 18 hrs, the reaction mixture was transferred into a separatory funnel, added with H2O, and extracted with ethyl acetate (3×150 ml). The organic phase was separated and dried over Na2SO4. The solvent was removed by evaporation under reduced pressure. The residue thus obtained was taken up with absolute ethanol and transformed into the corresponding hydrochloride salt by addition of ethanolic hydrogen chloride. The solution was evaporated under reduced pressure and the residue was crystallised from ethanol to give the desired product (20 g).

reactant | triethyl-amine | 0.21 moles, 30 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(1-methylethyl)-1H-indazole-3-carboxylic acid chloride | 0.043 moles, 9.5 g | CC(C)N1N=C(C2=CC=CC=C12)C(=O)Cl | C11H11ClN2O
reactant | H2O | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | N((1-(2-(4-hydroxyphenyl)ethyl)-4-piperidinyl)methyl)-1-isopropyl-1H-indazole-3-carboxamide hydrochloride | 20 g | Cl.OC1=CC=C(C=C1)CCN1CCC(CC1)CNC(=O)C1=NN(C2=CC=CC=C12)C(C)C | InChI=1S/C25H32N4O2.ClH/c1-18(2)29-23-6-4-3-5-22(23)24(27-29)25(31)26-17-20-12-15-28(16-13-20)14-11-19-7-9-21(30)10-8-19;/h3-10,18,20,30H,11-17H2,1-2H3,(H,26,31);1H
